US05707991
A The reaction is carried out in a way analogous to that described in Example 3, but from 0.6 g of 2-tert-butyl 4-methyl (2R*,4R*,5S*)-(-)-5-(2-fluorophenyl)-1-{2-[3-(3-(methoxycarbonylmethyl)phenyl)ureido]acetyl}pyrrolidine-2,4-dicarboxylate and 0.12 g of potassium hydroxide in a mixture of 10 cm3 of distilled water and 25 cm3 of methanol. After treatment, there is obtained 0.37 g of 2-tert-butyl hydrogen (2R*,4S*,5S*)-(+)-1-{2-[3-(3-(carboxymethyl)phenyl)ureido]acetyl}-5-(2-fluorophenyl)pyrrolidine-2,4-dicarboxylate, the spectroscopic analyses of which are in accordance with those of the first product of Example 52.

reactant | 2-tert-butyl 4-methyl (2R*,4R*,5S*)-(-)-5-(2-fluorophenyl)-1-{2-[3-(3-(methoxycarbonylmethyl)phenyl)ureido]acetyl}pyrrolidine-2,4-dicarboxylate | 0.6 g | FC1=C(C=CC=C1)[C@@H]1[C@@H](C[C@@H](N1C(CNC(=O)NC1=CC(=CC=C1)CC(=O)OC)=O)C(=O)OC(C)(C)C)C(=O)OC | C29H34FN3O8
reactant | potassium hydroxide | 0.12 g | [OH-].[K+]
solvent | water | 10 cm3 | O | H2O
solvent | methanol | 25 cm3 | CO | CH4O
product | 2-tert-butyl hydrogen (2R*,4S*,5S*)-(+)-1-{2-[3-(3-(carboxymethyl)phenyl)ureido]acetyl}-5-(2-fluorophenyl)pyrrolidine-2,4-dicarboxylate | 0.37 g | C(=O)(O)CC=1C=C(C=CC1)NC(NCC(=O)N1[C@H](C[C@@H]([C@H]1C1=C(C=CC=C1)F)C(=O)O)C(=O)OC(C)(C)C)=O | C27H30FN3O8
